US06897208B2
To a suspension of 5-cyanoindole (3.93 g) and sodium nitrite (19.07 g) in water was added 6M hydrochloric acid slowly until the pH was less than 2. The suspension was then stirred for 3 hours at ambient temperature. The mixture was then extracted with ethyl acetate, dried over magnesium sulfate, filtered and the filtrate concentrated in vacuo to give 3-formyl-1H-indazole-5-carbonitrile (4.5 g) as a pale brown solid. LC-MS (METHOD B): RT=2.47 minutes, 172.29 (M+H)+.

reactant | 5-cyanoindole | 3.93 g | C(#N)C=1C=C2C=CNC2=CC1 | C9H6N2
reactant | sodium nitrite | 19.07 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 6M | Cl | ClH
reactant | water | O | H2O
product | 3-formyl-1H-indazole-5-carbonitrile | 4.5 g | C(=O)C1=NNC2=CC=C(C=C12)C#N | C9H5N3O
